data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4716,5384,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C-:12]([N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N:13][C:12]2([CH3:11])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,18.726247085785324,-36.37402645935583
2811,3125,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]#[C:10][C:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[CH2:24][CH2:25][CH2:26][CH2:27]1.[CH3:28][C:29](=[O:30])[C-:31]([CH3:32])[N+:33]([CH3:34])=[CH:35][c:36]1[cH:37][cH:38][cH:39][cH:40][cH:41]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]2=[C:10]([C:11]([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)([c:18]3[cH:19][cH:20][cH:21][cH:22][cH:23]3)[CH2:24][CH2:25][CH2:26][CH2:27]1)[C:31]([C:29]([CH3:28])=[O:30])([CH3:32])[N:33]([CH3:34])[CH:35]2[c:36]1[cH:37][cH:38][cH:39][cH:40][cH:41]1,water,298.15,18.817543879203416,-28.671212042977505
2956,3300,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6]#[N+:7][CH-:8][C:9](=[O:10])[O:11][CH3:12]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:8]([C:9](=[O:10])[O:11][CH3:12])[N:7]=[C:6]1[CH3:5],water,298.15,18.250915613315264,-42.8546823031888
744,806,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][O-:20])[C:21]([CH3:22])=[O:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([C:21]([CH3:22])=[O:23])[NH:19][O:20]2,water,298.15,18.304140725267924,-13.510523528606914
3804,4354,[CH2:10]=[N+:11]([CH3:12])[C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH2:10][N:11]([CH3:12])[C:13]1([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,23.03010859906736,-28.13690986992921
4622,5269,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([CH3:14])[N+:15]([CH3:16])=[C:17]([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[N:15]([CH3:16])[C:17]1([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,23.11496336274409,-27.791648033141584
2217,2458,[CH3:18][NH:19][C:20](=[O:21])[N-:22][N+:23]([CH3:24])=[C:25]([C:26]([CH3:27])=[O:28])[C:29](=[O:30])[O:31][CH3:32].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[N:22]([C:20]([NH:19][CH3:18])=[O:21])[N:23]([CH3:24])[C:25]3([C:26]([CH3:27])=[O:28])[C:29](=[O:30])[O:31][CH3:32],water,298.15,17.397286375455998,-34.25042651551909
2530,2810,[CH3:17][O:18][C:19](=[O:20])[C:21](=[NH+:22][NH-:23])[C:24](=[O:25])[O:26][CH3:27].[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([Br:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([Br:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([O:18][CH3:17])=[O:20])([C:24](=[O:25])[O:26][CH3:27])[NH:22][NH:23]2,water,298.15,21.449823218793853,-31.106712882345214
4259,4873,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[c:21](=[O:22])[o:23]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]1([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[NH:13][C:12]2([CH3:11])[O:23][C:21]1=[O:22],water,298.15,23.539847945990925,-0.6478604207966465
2883,3203,[CH3:18][NH:19][C:20](=[O:21])[C-:22]([C:23](=[O:24])[O:25][CH3:26])[N+:27]([CH3:28])=[C:29]([C:30]([CH3:31])=[O:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([Br:12])([Br:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([Br:12])([Br:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([C:23](=[O:24])[O:25][CH3:26])[N:27]([CH3:28])[C:29]2([C:30]([CH3:31])=[O:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,47.57295370679447,-20.24290070158107
4511,5146,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH:16]=[O+:17][C-:18]([CH3:19])[C:20](=[O:21])[NH:22][CH3:23]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([CH3:19])([C:20](=[O:21])[NH:22][CH3:23])[O:17][CH:16]2[CH3:15],water,298.15,1.8840257369428075,-44.56967877115504
